US08071592B2
(e) Ethyl ({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetate
Hydrogen chloride gas was bubbled into a solution of 2-({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetamide (0.6 g, 1.97 mmol) in ethanol (20 mL). The resulting mixture was heated at 100° C. for 3 h. The mixture was evaporated under reduced pressure to give the desired product as a solid (0.55 g, 84%) which was used without purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetamide | 1.97 mmol, 0.6 g | NC1=NC(=NC(=C1OCC(=O)N)Cl)\C=C\C1=CC=CC=C1 | C14H13ClN4O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl ({4-amino-6-chloro-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}oxy)acetate | 0.55 g, 84% | NC1=NC(=NC(=C1OCC(=O)OCC)Cl)\C=C\C1=CC=CC=C1 | C16H16ClN3O3
